US05824682
A mixture of 3,6-dichloropyridazine (0.168 mol), 1,3-propanediamine (0.84 mol) and sodium carbonate (0.17 mol) in ethanol (500 ml) was stirred and refluxed overnight. The reaction mixture was filtered over dicalite. The filtrate was evaporated. The residue was crystallized from acetonitrile. The crystals were filtered off and dried, yielding 20.7 g of N-(6-chloro-3-pyridazinyl)-1,3-propanediamine; mp. 124.9° C. (interm. 1-c).

reactant | 3,6-dichloropyridazine | 0.168 mol | ClC=1N=NC(=CC1)Cl | C4H2Cl2N2
reactant | 1,3-propanediamine | 0.84 mol | C(CCN)N | C3H10N2
reactant | sodium carbonate | 0.17 mol | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | N-(6-chloro-3-pyridazinyl)-1,3-propanediamine | 20.7 g | ClC1=CC=C(N=N1)NCCCN | C7H11ClN4
